Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: The patient is a ___ woman
with a history of early onset Alzheimer's dementia, who presents
to the emergency department after an episode of seizure this
morning.  History is obtained from her bedside nurse at her
assisted living facility, as well as her husband ___.

She has apparently been in her usual state of health recently. 
There have been no recent illnesses or sick contacts.  She had a
normal day yesterday, including eating and attending group
activities.  The only recent change in her medications is a
switch from standing Lorazepam 0.5 mg twice a day to as needed
lorazepam, though her nurse reports she frequently receives the
PRN doses.

This morning, at approximately 730, her nurse was alerted that
she was having some shaking while on the toilet.  Her nurse ran
into find her sitting on the toilet, but with her arms and legs
extended and very, very rigid.  She was having what sounds to be
synchronous shaking of all 4 limbs.  Her neck was extended and
her eyes were rolled back in her head.  The nurse  helped to 
move
her to the ground, but the shaking continued.  She estimates 
that
this lasted somewhere between 3 and 5 minutes.  ___ was
unresponsive to voice during the episode.  She seemed to be
gasping for air.  The episode stopped on its own without any
intervention, at which point she seemed to slowly return to
normal over a period of about 5 to 10 minutes.

At this point EMS was called and she was transported to ___.  On my initial assessment, she was awake and alert and 
in
no distress.  Her husband reported that she seemed to be at her
neurologic baseline.  However, at approximately 12 ___, she had
another brief seizure witnessed by the nurse.  This is described
as starting with bilateral arm flexion followed by generalized
shaking lasting about 30 seconds.  It resolved on its own 
without
any intervention.  Oxygen saturation at the end of this event 
was
in the low ___, and improved over period of several minutes. 
Immediately following the event, she was lethargic with eyes
closed.  She had some roving eye movements but no forced head or
eye deviation.  There was no ongoing rhythmic activity in any
limb.

Regarding her neurologic history, she apparently started
manifesting symptoms of dementia in her early ___.  Her husband
reports  that she had trouble remembering people and
appointments.  She was unable to keep up with her work as a
___.  At some point, she had what sounds
like neuropsychologic testing, and based on this as well as her
family history was diagnosed with early onset Alzheimer's
dementia.  It is unclear if she had any imaging or other tests
such as Apo-E.  She was brought to ___ ___ years ago
after her memory as well as anxiety seemed to be much worse. 
From there she was discharged to assisted living facility, where
she has remained.  Since approximately that time, she has been
generally dependent on others for all aspects of her ADLs,
including feeding, bathing, and dressing.  For at least a few
years, she has been minimally verbal, though her husband does
report she seems to respond to familiar voices and at times show
some understanding what people are saying.

She is apparently followed by a Dr. ___ at ___. 
However, I am only able to find one notes that system from ___.  At this point she is described as being "in good spirits
with something of a smile and to many questions will simply not
yes or no... Asking her to hold up her hands for example she is
able briefly to do so but not anything after that.  She is able
to tap her fingers together in imitation and follow commands
involving language but to a very limited degree... Every once in
a while and in a reasonably appropriate fashion she can say no 
or
okay".

 
Past Medical History:
Early onset Alzheimer's dementia
Osteoporosis
Anxiety
Vitamin D deficiency
                      
 
Social History:
___
Family History:
Maternal aunt and grandmother both had Alzheimer's dementia,
though husband is unsure of the age of onset.  Her mother lived
into her ___ or ___ with no signs of dementia.
 
Physical Exam:
Admission:
Vitals: 96.0 81 134/94 18 94% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake and alert, with eyes open.  She tracks in
regards examiner, though did not follow any commands or mimic
actions.  No language output.  She does smile appropriately. 
Prominent grasp reflex, glabellar tap is positive, positive
snout, negative rooting and palmomental reflexes.
-Cranial Nerves:  pupils equal and reactive, 3 to 2 mm.  Eye
movements full nystagmus. Blinks to threat bilaterally.  Face
symmetric at rest.  Tongue midline.

-Motor: There is paratonia in all 4 limbs, and perhaps a
suggestion of spasticity in the right arm.  Moves all 
extremities
against gravity without obvious weakness.  There are rare,
generalized myoclonic jerks of all 4 limbs and trunk, with some
subtle negative myoclonus in the arms as well.
-Sensory: Withdraws from tickle in all extremities.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.
-Coordination: Unable to test
-Gait: Unable to test

============================================

Discharge

Vitals: 
24 HR Data (last updated ___ @ 619)
    Temp: 97.9 (Tm 98.5), BP: 122/73 (111-149/66-73), HR: 71
(62-71), RR: 14 (___), O2 sat: 97% (96-97), O2 delivery: Ra  

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft

Neurologic:
-Mental Status: Awake and alert, with eyes open.  She tracks in
regards examiner, though did not follow any commands or mimic
actions.  No language output.  She does smile appropriately. 
Prominent grasp reflex, glabellar tap is positive, positive
snout, positive palmomental reflexes, rooting reflex negative.
-Cranial Nerves:  pupils equal and reactive, 3 to 2 mm.  Eye
movements full nystagmus. Blinks to threat bilaterally.  Face
symmetric at rest.  Tongue midline.

-Motor: There is spasticity in all 4 limbs (most pronounced R 
arm and L leg) Moves all extremities against gravity without 
obvious weakness.  There are rare,
generalized myoclonic jerks of all 4 limbs and trunk, with some
subtle negative myoclonus in the arms as well.
-Sensory: Withdraws from tickle in all extremities.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.
-Coordination: Unable to test
-Gait: Unable to test

 
Pertinent Results:
___ 08:35AM BLOOD WBC-8.6 RBC-4.71 Hgb-14.4 Hct-43.5 MCV-92 
MCH-30.6 MCHC-33.1 RDW-12.7 RDWSD-43.1 Plt ___
___ 06:43AM BLOOD WBC-7.5 RBC-4.48 Hgb-13.7 Hct-41.3 MCV-92 
MCH-30.6 MCHC-33.2 RDW-12.8 RDWSD-43.3 Plt ___
___ 08:35AM BLOOD Neuts-74.5* Lymphs-16.5* Monos-5.8 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-6.41* AbsLymp-1.42 
AbsMono-0.50 AbsEos-0.08 AbsBaso-0.05
___ 08:35AM BLOOD Plt ___
___ 06:43AM BLOOD Plt ___
___ 08:35AM BLOOD Glucose-183* UreaN-12 Creat-1.0 Na-139 
K-4.8 Cl-101 HCO3-17* AnGap-21*
___ 06:43AM BLOOD Glucose-127* UreaN-9 Creat-0.7 Na-140 
K-3.7 Cl-103 HCO3-24 AnGap-13
___ 08:35AM BLOOD ALT-21 AST-37 AlkPhos-126* TotBili-0.3
___ 12:35PM BLOOD ALT-21 AST-21 AlkPhos-134* TotBili-0.3
___ 08:35AM BLOOD Lipase-41
___ 12:35PM BLOOD Lipase-32
___ 08:35AM BLOOD cTropnT-<0.01
___ 12:35PM BLOOD cTropnT-<0.01
___ 08:35AM BLOOD Albumin-3.7 Calcium-9.0 Phos-2.7 Mg-2.0
___ 12:35PM BLOOD Albumin-4.0
___ 06:43AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2
___ 08:35AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 11:55AM BLOOD Lactate-1.7

 CT HEAD W/O CONTRAST Study Date of ___ 9:37 AM 
IMPRESSION: 
1. No acute intracranial abnormality, no hemorrhage. 
2. Global volume loss advanced for age, but compatible with 
known Alzheimer's 
dementia. 
  
 CT C-SPINE W/O CONTRAST Study Date of ___ 9:38 AM 
IMPRESSION:   
No acute fracture or traumatic dislocation. 

cvEEG (PRELIMINARY): IMPRESSION:  This is an abnormal continuous 
video-EEG monitoring study due to:
1.Occasional sharp wave discharges in the right frontal region 
(F4) and in the occipital regions bilaterally, right more than 
left.  This finding likely indicates multiple foci of 
epileptogenic cortex with potential for seizure.
2.Diffuse slowing and disorganization present in the background, 
indicating moderate diffuse cerebral dysfunction that is 
nonspecific in etiology. Common causes include 
medications/sedation, toxic metabolic disturbances, and 
infections.
 There are no pushbutton events. No electrographic seizures are 
seen.

 
Brief Hospital Course:
In brief, this is a ___ woman with a history of early 
onset
dementia (likely early-onset Alzheimer's disease), but no 
history of seizure, who presented to the ED after an episode of 
tonic stiffening of the limbs with
generalized convulsion.  In the ED, she had another episode 
which was likely a brief tonic seizure.

Neurologic exam was found to be at her baseline, which is 
notable for global aphasia that limits the exam.  There were no 
lateralized neurologic deficits.  Laboratory evaluation did not 
reveal any evidence of infection or metabolic derangement that 
would provoke a seizure.  Similarly, her head CT showed only 
severe atrophy but no acute pathology.  

Overall, we think that the seizures likely occurred in the 
setting of her dementia with generalized cortical atrophy. She 
was started on levetiracetam at 1000mg BID and placed on EEG. 
EEG showed no further seizures. She is being discharged in 
stable clinical condition.

Transitional issues:
- continue levetiracetam 1000mg BID
- follow up in primary care and neurology (Dr. ___ at ___ 
___) 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Vitamin D Dose is Unknown  PO BID 
2. LORazepam 0.5 mg PO BID 
3. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
4. Donepezil 10 mg PO QHS 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Cyanocobalamin 100 mcg PO DAILY  
4.  FLUoxetine 20 mg PO DAILY  
5.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
6.  Memantine 10 mg PO BID  
7.  Vitamin D 1000 UNIT PO DAILY  
8.  Donepezil 10 mg PO QHS  
9.  Nuedexta (dextromethorphan-quinidine) ___ mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
New-onset epilepsy in the setting of early-onset Alzheimer's 
disease
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ were admitted because of seizures. ___ had two seizures - 
one occurred at home and one was witnessed in our emergency 
department. ___ had laboratory tests and a CT scan of your head 
that did not show any acute process. We think your seizures 
occurred in the setting of your longstanding early-onset 
dementia. ___ were started on an antiseizure medication, called 
Keppra (or levetiracetam). ___ were placed on EEG and we found 
that your seizures stopped.

Please continue your antiseizure medication:
- Levetiracetam (Keppra) 1000mg twice daily

Please follow up with your neurologist, Dr. ___, at ___ 
___. 
Please follow up with your primary care doctor.

I was a pleasure taking care of ___ at ___.

___ ___ team.
 
Followup Instructions:
___